US08003785B2
A mixture of 0.05 g (0.17 mmole) of 2-chloro-9-cyclopentyl-7,7-difluoro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-20), 0.05 g (0.20 mmole) of 4-amino-N-(1-methyl-piperidin-4-yl)-benzamide and 0.05 g (0.25 mmole) of p-toluenesulfonic acid monohydrate in 4.0 mL of 2-propanol was heated at 160 degrees for 2 hours in a microwave reactor. The reaction mixture was cooled and then concentrated under reduced pressure. The residue was diluted with dichloromethane and saturated aqueous sodium bicarbonate solution. The precipitate was collected by filtration, washed with water and dried to give 0.030 g of 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-methyl-piperidin-4-yl)-benzamide (I-134).

reactant | 2-chloro-9-cyclopentyl-7,7-difluoro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.17 mmole, 0.05 g | ClC=1N=CC2=C(N(CC(C(N2)=O)(F)F)C2CCCC2)N1 | C12H13ClF2N4O
reactant | 4-amino-N-(1-methyl-piperidin-4-yl)-benzamide | 0.20 mmole, 0.05 g | NC1=CC=C(C(=O)NC2CCN(CC2)C)C=C1 | C13H19N3O
reactant | p-toluenesulfonic acid monohydrate | 0.25 mmole, 0.05 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 2-propanol | 4.0 mL | CC(C)O | C3H8O
product | 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-methyl-piperidin-4-yl)-benzamide | 0.030 g | C1(CCCC1)N1C2=C(NC(C(C1)(F)F)=O)C=NC(=N2)NC2=CC=C(C(=O)NC1CCN(CC1)C)C=C2 | C25H31F2N7O2
